US09328096B2
Methyl 2,4-dichloro-5-(3-fluoropyridin-2-yl)benzoate
To a solution of methyl 2,4-dichloro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate (1.95 mol) in THF (4 L), was added portionwise a solution of potassium carbonate (807 g, 5.85 mol) in water (1.6 L), followed by 2-bromo-3-fluoropyridine (361 g, 2.05 mol) and the mixture degassed with argon. To this mixture was added tetrakis(triphenylphosphine)palladium (56.4 g, 48.8 mmol) and the mixture heated at reflux for 5 h. The mixture was cooled to room temperature and the organic layer separated and washed with brine (1 L). This organic solution containing the title compound was used directly in the next reaction (Preparation 27A).

reactant | methyl 2,4-dichloro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate | 1.95 mol | ClC1=C(C(=O)OC)C=C(C(=C1)Cl)B1OC(C(O1)(C)C)(C)C | C14H17BCl2O4
reactant | potassium carbonate | 5.85 mol, 807 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromo-3-fluoropyridine | 2.05 mol, 361 g | BrC1=NC=CC=C1F | C5H3BrFN
solvent | THF | 4 L | C1CCOC1 | C4H8O
solvent | water | 1.6 L | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 48.8 mmol, 56.4 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Methyl 2,4-dichloro-5-(3-fluoropyridin-2-yl)benzoate | ClC1=C(C(=O)OC)C=C(C(=C1)Cl)C1=NC=CC=C1F | C13H8Cl2FNO2
